US07592373B2
3.20.a. (2-chloro-4-nitrophenyl)methanol
35.9 g (0.22 mol) of 1,1′-carbonyldiimidazole is slowly added to a solution of 41.1 g (0.2 mol) of 2-chloro-4-nitrobenzoic acid in 400 mL of THF. The reaction mixture is stirred for 1.5 hours at 35° C. Then the green reaction mixture is cooled down using ice and at maximum 20° C. combined dropwise with a solution of 26.5 g (0.7 mol) of sodium borohydride in 400 mL of water. After 1.5 hours stirring, the reaction mixture is diluted with 200 mL of water and then neutralized with 250 mL of semiconcentrated hydrochloric acid. It is stirred for 1 hour, then extracted twice with ethyl acetate and the organic phase is dried over sodium sulfate. The desiccant is filtered off and the solvent is evaporated down. The residue is crystallized with petroleum ether, suction filtered, and dried at 50° C. in the drying chamber. Yield: 37.66 g (100% of theory); melting point: 62° C.-64° C.; C7H6ClNO3 (M=187.58); calc.: molecular ion peak (M+H)+: 187/189 (Cl); found: molecular ion peak (M+H)+: 187/189 (Cl); Rf value: 0.70 (silica gel, dichloromethane/methanol (90:10)).

reactant | 1,1′-carbonyldiimidazole | 0.22 mol, 35.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-chloro-4-nitrobenzoic acid | 0.2 mol, 41.1 g | ClC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | sodium borohydride | 0.7 mol, 26.5 g | [BH4-].[Na+]
reactant | hydrochloric acid | 250 mL | Cl | ClH
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | water | 400 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | (2-chloro-4-nitrophenyl)methanol | ClC1=C(C=CC(=C1)[N+](=O)[O-])CO | C7H6ClNO3
